US07163936B2
To a solution of allyl (4R,5S,6S)-3-[(4-{(5R)-1-[(allyloxy)carbonyl]-5-methyl-2,5-dihydro-1H-pyrrol-3-yl}-1,3-thiazol-2-yl)sulfanyl]-4-methyl-7-oxo-6-[(1R)-1-[(trimethylsilyl)oxy]ethyl]-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (42 mg, 0.070 mmol) in ethyl acetate (4 ml) was added water and then 2N hydrochloric acid and the solution was adjusted to pH 2. After stirring for 10 minutes, THF was further added thereto and the solution was stirred for 20 minutes. To the obtained mixture was added a saturated aqueous sodium hydrogen carbonate solution and the solution was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. To a solution of the residue (37.6 mg) in dichloromethane (2 ml) were added at 0° C. tributyltin hydride (0.17 ml), acetic acid (10 μl) and bis(triphenylphosphine)palladium chloride(5 mg) and the mixture was stirred at the same temperature for 10 minutes. To the reaction mixture were added phosphate buffer (50 mM, pH7, 25 ml) and dichloromethane (20 ml). The aqueous layer was separated and the dichloromethane layer was extracted twice with water. The combined aqueous layer was washed with dichloromethane (3 ml). The organic solvent in the aqueous layer was evaporated under reduced pressure, and the residue was purified by polymer chromatography (CHP-20P). The fractions eluted with 1–3% aqueous THF solution were combined and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-({4-[(5R)-5-methyl-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazol-2-yl}sulfanyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid.

reactant | allyl (4R,5S,6S)-3-[(4-{(5R)-1-[(allyloxy)carbonyl]-5-methyl-2,5-dihydro-1H-pyrrol-3-yl}-1,3-thiazol-2-yl)sulfanyl]-4-methyl-7-oxo-6-[(1R)-1-[(trimethylsilyl)oxy]ethyl]-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.070 mmol, 42 mg | C(C=C)OC(=O)N1CC(=C[C@H]1C)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C | C28H37N3O6S2Si
reactant | water | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-({4-[(5R)-5-methyl-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazol-2-yl}sulfanyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)SC=1SC=C(N1)C=1CN[C@@H](C1)C)C | C18H21N3O4S2
